US08309562B2
6-Methoxy-N4-(4-methoxy-phenyl)-N2,N4-dimethyl-quinazoline-2,4-diamine
A mixture of (2-chloro-6-methoxy-quinazoline-4-yl)-(4-methoxy-phenyl)-methyl-amine (0.15 g, 0.45 mmol), methylamine hydrochloride (0.3 g, 4.5 mmol), potassium carbonate (0.68 g, 4.4 mmol) in 4 mL of iPrOH in a sealed tube stirred at 90° C. overnight. The reaction mixture was concentrated under reduced pressure, the residue dissolved in chloroform 20 mL, washed with conc. Sodium bicarbonate, brine, dried over MgSO4, filtered and concentrated under reduced pressure. The crude product was purified by chromatography on silica gel (CHCL3/MeOH/NH4OH=10/1/0.1 as eluent) yielding 45 mg (32%) of the title compound. 1H NMR (DMSO): δ 7.2 (d, 1H), 7.18-7.15 (m, 2H), 7.05-7.02 (d, 1H), 6.99-6.97 (d, 2H), 6.5 (br s, 1H), 6.2 (s, 1H), 3.7 (s, 3H), 3.4 (s, 3H), 3.2 (s, 3H), 2.8 (s, 3H). LC/MS: 325, (M+1).

reactant | (2-chloro-6-methoxy-quinazoline-4-yl)-(4-methoxy-phenyl)-methyl-amine | 0.45 mmol, 0.15 g | ClC1=NC2=CC=C(C=C2C(=N1)N(C)C1=CC=C(C=C1)OC)OC | C17H16ClN3O2
reactant | methylamine hydrochloride | 4.5 mmol, 0.3 g | Cl.CN
reactant | potassium carbonate | 4.4 mmol, 0.68 g | C([O-])([O-])=O.[K+].[K+]
solvent | iPrOH | 4 mL | CC(C)O | C3H8O
product | 6-Methoxy-N4-(4-methoxy-phenyl)-N2,N4-dimethyl-quinazoline-2,4-diamine | 45 mg, 32% | COC=1C=C2C(=NC(=NC2=CC1)NC)N(C)C1=CC=C(C=C1)OC | C18H20N4O2
